US04670448
1-Methyl-3-trifluoromethyl-1H-1,2,4-triazole-5-amine
1-Amino-1-methyl guanidine sulphate (12.3 g) and trifluoroacetic acid (16 ml) were heated at reflux for 96 h. Excess trifluoroacetic acid was removed by distillation and the residue was basified with sodium bicarbonate and extracted with ethyl acetate. The extract was dried and evaporated to give a white solid (7.2 g) which was recrystallised from a mixture of methyl acetate (8 ml) and petroleum ether (b.p. 60°-80°) (20 ml) to give the title compound as a white powder (5.1 g) m.p. 165°-166°.

reactant | 1-Amino-1-methyl guanidine sulphate | 12.3 g | S(=O)(=O)(O)O.NN(C(=N)N)C
reactant | trifluoroacetic acid | 16 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Methyl-3-trifluoromethyl-1H-1,2,4-triazole-5-amine | 7.2 g | CN1N=C(N=C1N)C(F)(F)F | C4H5F3N4
